Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Asacol
 
Attending: ___.
 
Chief Complaint:
back and left leg pain
 
Major Surgical or Invasive Procedure:
Left L4-L5 microscopic diskectomy

 
History of Present Illness:
___ year old female with PMH ulcerative colitis, asthma, 
rheumatoid arthritis, recent diagnosis of L4 radiculopathy 
followed by Dr. ___. Patient reports over past month has 
had significantly worsening pain in back pain radiating down to 
the left leg in the front all the way to her shin. No bladder or 
bowel symptoms. Denies recent fevers, chills, sweats or weight 
loss.Denies recent trauma or falls, anticoagulation. Patient has 
not prior history of injury or surgery to this region. Was 
recently seen on ___ and had steroid injection at ___ 
___ in ___ by ___. Reported mild improvement ~1 day 
and then pain returned worse than before. Not on 
anticoagulation. In the ED, initial vitals were 98.8 87 163/76 
18 100%.Per the
ED, the patient's exam was benign without neurovascular 
compromise. 

 
Past Medical History:
   1.  Indeterminate Colitis.
   2.  Inflammatory arthropathy.
   3.  Colonic adenomata.
   4.  COPD.
   5.  Lung nodules.
   6.  Status post cholecystectomy.
   7.  Side branch IPMN.
   8.  Hypertension.
   9.  History of myocardial infarction, status post stenting,on 
aspirin and Plavix.  
   10.  Bell's palsy.
   11.  Questionable pancreatitis while on Mesalamine and
   hydrochlorothiazide.
   12.  Multiple pneumonias.

 
Social History:
___
Family History:
mother - died lung cancer  
father - died colon cancer  
other - brother died colon cancer  

 
Physical Exam:
PHYSICAL EXAM per ortho admit note date ___-    
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, no lymphadenopathy or JVD
LUNGS: Clear to auscultation bilaterally
CV: Regular rate and rhythm, 
ABD: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema   
NEURO: 
Reflexes
Patellar +2 on right 0 on left
Babinksi absent bilaterally
Rectal tone intact
No saddle or perianal anesthesia

       ___  L4/5  S1
Left   5    4    4    4   
Right  5    5    5    5

 
Pertinent Results:
___ 05:25AM BLOOD WBC-11.6* RBC-3.95* Hgb-11.8* Hct-36.3 
MCV-92 MCH-29.9 MCHC-32.6 RDW-12.2 Plt ___
___ 05:25AM BLOOD Plt ___
___ 05:25AM BLOOD Glucose-92 UreaN-13 Creat-0.5 Na-141 
K-3.5 Cl-102 HCO3-31 AnGap-12
___ 05:25AM BLOOD CK(CPK)-64
___ 05:25AM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:00PM BLOOD CRP-2.1
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure. Refer to 
the dictated operative note for further details. The surgery was 
without complication and the patient was transferred to the PACU 
in a stable condition. TEDs/pnemoboots were used for 
postoperative DVT prophylaxis. Intravenous antibiotics were 
continued for 24hrs postop per standard protocol. Initial postop 
pain was controlled with a PCA. Diet was advanced as tolerated. 
The patient was transitioned to oral pain medication when 
tolerating PO diet. Foley was removed on POD#2. Physical therapy 
was consulted for mobilization OOB to ambulate. An additional 
MRI of your lumbar spine was obtained on ___ due to 
increased back and lower extremity pain similar to what you 
experienced prior to surgery.                    Hospital course 
was otherwise unremarkable. On the day of discharge the patient 
was afebrile with stable vital signs, comfortable on oral pain 
control and tolerating a regular diet.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
2. Valsartan 80 mg PO DAILY 
3. Metoprolol Tartrate 25 mg PO BID 
4. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
QID dyspnea 
5. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Hydroxychloroquine Sulfate 200 mg PO DAILY 

 
Discharge Medications:
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Hydroxychloroquine Sulfate 200 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
QID dyspnea 
6. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 
7. Acetaminophen 1000 mg PO Q8H 
may be taken over the counter 
8. Atorvastatin 80 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Docusate Sodium 100 mg PO BID 
please take while on pain medication 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
11. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
Please do not operate heavy machinery,drink alcohol or drive 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*144 Tablet Refills:*0
12. Valsartan 80 mg PO DAILY 
13. Diazepam 2.5 mg PO Q6H:PRN pain 
RX *diazepam 2 mg 1 tablet by mouth every six (6) hours Disp 
#*44 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Lumbar disk herniation L4-L5.
2. Lumbar radiculopathy L5.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Microdiscectomy

You have undergone the following operation: Minimally Invasive 
Microdiscectomy

Immediately after the operation:

•                Activity: You should not lift anything greater 
than 10 lbs for 2 weeks. You will be more comfortable if you do 
not sit or stand more than ~45 minutes without moving around.

•                Rehabilitation/ Physical Therapy:

___                ___ times a day you should go for a walk 
for ___ minutes as part of your recovery.  You can walk as 
much as you can tolerate.

___                Limit any kind of lifting.

•                Diet: Eat a normal healthy diet. You may have 
some constipation after surgery.

•                Brace: You do not need a brace.

•                Wound Care: Remove the dressing in 2 days.  If 
the incision is draining cover it with a new sterile dressing.  
If it is dry then you can leave the incision open to the air.  
Once the incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing.  Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.  Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.  You can either 
have them mailed to your home or pick them up at the clinic 
located on ___.  We are not allowed to call in narcotic 
prescriptions (oxycontin, oxycodone, percocet) to the pharmacy.  
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.

•                Follow up:            

___                Please Call the office and make an 
appointment for 2 weeks after the day of your operation if this 
has not been done already.

___                At the 2-week visit we will check your 
incision, take baseline X-rays and answer any questions. We may 
at that time start physical therapy.

___                We will then see you at 6 weeks from the 
day of the operation and at that time release you to full 
activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound

Physical Therapy:
-You should not lift anything greater than 10 lbs for 2 weeks. 
You will be more comfortable if you do not sit or stand more 
than ~45 minutes without moving around.
-___ times a day you should go for a walk for ___ minutes as 
part of your recovery.  You can walk as much as you can 
tolerate.
-Limit any kind of lifting.

Treatments Frequency:
Remove the dressing in 2 days.  If the incision is draining 
cover it with a new sterile dressing.  If it is dry then you can 
leave the incision open to the air.  Once the incision is 
completely dry (usually ___ days after the operation) you may 
take a shower. Do not soak the incision in a bath or pool.  If 
the incision starts draining at anytime after surgery, do not 
get the incision wet. Cover it with a sterile dressing.  Call 
the office.

 
Followup Instructions:
___